US03944567
Preparation of 1-Methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea
A mixture of 5 grams of methoxyamine hydrochloride in 60 ml. of methylene chloride is stirred and cooled to 15°C., and 6 grams of triethylamine in 15 ml. of methylene chloride is added. After 20 minutes of stirring, 5.38 grams of 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate is added dropwise. After stirring an additional 0.5 hour at 15°C. to 20°C., the mixture is stirred at room temperature for 0.5 hour. The mixis then filtered, and the filtrate is washed with water and saturated sodium bicarbonate solution. The filtrate is dried (magnesium sulfate) and evaporated to dryness to afford the title compound which is recrystallized from acetone/hexane to give the product with melting point 138.5°C. to 141.20 C.

reactant | methoxyamine hydrochloride | 5 grams | Cl.CON
reactant | triethylamine | 6 grams | C(C)N(CC)CC | C6H15N
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | 5.38 grams | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CONC(=O)NC1CCCC=2SC=CC21 | C10H14N2O2S
